US07119115B2
0.307 g of ethyl glycinate hydrochloride is added to a suspension of 0.589 g of 2-chloro-5,5-diphenylcyclohexa-1,3-dienecarbaldehyde in 20 cm3 of N,N-dimethylformamide. The reaction mixture is refluxed for about 20 hours. After cooling to a temperature in the region of 20° C., the mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up in 100 cm3 of ethyl acetate, washed with three times 50 cm3 of water and then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure. After purification by flash chromatography on a column of silica [eluent: dichloromethane], 0.11 g of ethyl 5,5-diphenyl-4,5-dihydro-2H-isoindole-1-carboxylate is obtained in the form of a brown solid, the characteristics of which are as follows:

reactant | ethyl glycinate hydrochloride | 0.307 g | Cl.NCC(=O)OCC
reactant | 2-chloro-5,5-diphenylcyclohexa-1,3-dienecarbaldehyde | 0.589 g | ClC1=C(CC(C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C19H15ClO
solvent | N,N-dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
product | ethyl 5,5-diphenyl-4,5-dihydro-2H-isoindole-1-carboxylate | 0.11 g | C1(=CC=CC=C1)C1(CC2=CNC(=C2C=C1)C(=O)OCC)C1=CC=CC=C1 | C23H21NO2
